US05849735
N-[4-(Pyrido[2,3-b][1,4]benzoxazepin-5(6H)-ylcarbonyl)-3-chlorophenyl][1,1'biphenyl]-2-carboxamide
As described for Example 66, reaction of 0.198 g of 5,6-dihydropyrido[2,3-b][1,4]benzoxazepine with 0.444 g of 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride in dichloromethane in the presence of N,N-diisopropylethylamine gives the product as a solid.

reactant | 5,6-dihydropyrido[2,3-b][1,4]benzoxazepine | 0.198 g | N1=CC=CC2=C1OC1=C(CN2)C=CC=C1 | C12H10N2O
reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride | 0.444 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)Cl)C=C1)Cl)C1=CC=CC=C1 | C20H13Cl2NO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(Pyrido[2,3-b][1,4]benzoxazepin-5(6H)-ylcarbonyl)-3-chlorophenyl][1,1'biphenyl]-2-carboxamide | N1=CC=CC2=C1OC1=C(CN2C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=C1 | C32H22ClN3O3
